.subckt TLV1851DBVR IN+ IN- V+ OUT
A1 IN+ IN- 0 0 0 0 N001 0 SCHMITT Trise= 330n, Vhigh = 5, Vlow = 0, Vh = 130m, Vt =0.00, Td = 45u
S1 OUT N001 N002 0 SW1
A2 V+ 0 0 0 0 0 N002 0 BUF Vhigh = 5, Vlow = 0, Vt = 1.5, Td = 2m
R1 OUT 0 10e6
.model SW1 SW(Vt = 1.5 Vh = 10m)
.ends TLV1851DBVR